US07470710B2
Description 59: (RS)-2-(5,6-Difluoro-1H-benzoimidazol-2-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester
A solution of (RS)-5,6-difluoro-2-piperidin-2-ylmethyl-1H-benzoimidazole, D18 (1.5 g) in dichloromethane was treated with triethylamine (0.98 ml), then di-tert-butyl dicarbonate (1.3 g). After stirring for 18 h at room temperature under argon the mixture was diluted with dichloromethane then washed with HCl (2M). The aqueous phase was basified with solid K2CO3 and extracted with dichloromethane. The organic phase was washed with aqueous NaHCO3, brine and dried (MgSO4). The solvent was removed in vacuo to afford the title compound (2 g).

reactant | (RS)-5,6-difluoro-2-piperidin-2-ylmethyl-1H-benzoimidazole | FC1=CC2=C(NC(=N2)CC2NCCCC2)C=C1F | C13H15F2N3
reactant | triethylamine | 0.98 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | (RS)-2-(5,6-Difluoro-1H-benzoimidazol-2-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | 2 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC1=NC2=C(N1)C=C(C(=C2)F)F | C18H23F2N3O2
